Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leaking fluid at 19 weeks
 
Major Surgical or Invasive Procedure:
Dilation and Evacuation

 
History of Present Illness:
___ G2P1 at 19w0d with a gush of brown tinged fluid this
afternoon which the patient attributed as urine. She has had 2
additional large gushes after urinating since then. She also
reports periodic leaking in between large gushes. No ctx or VB.
+FM. No f/c/n/v/d/c. No HA. ROS otherwise negative.

 
Past Medical History:
PMH: asmtha (no hospitalizations) 
PSH: wisdom teeth, mole resection (benign)

 
Social History:
Lives with husband and child. Feels safe at home
 
Physical Exam:
Exam:
VS 98.4 ___ 100%
CV: RRR
Pulm: CTAB, good air movt throughout, no w/r/r
Abd: soft, +BS, nt,nd, gravid, no fundal tenderness
SSE: + pooling, + nitrazine. Cvx visually closed with visual
leakage of fluid from os with increased abd pressure.
___: nt, no edema

On day of discharge
GEN: NAD
CV: RRR
LUNGS: CTA bl
ABD: soft, NT, ND, fundus is firm
Ext: wnl
moderate VB
 
Pertinent Results:
___ 09:17PM   WBC-11.2*# RBC-3.93* HGB-11.6* HCT-33.6* 
MCV-85# MCH-29.5 MCHC-34.6 RDW-12.8
___ 09:17PM   ___ PTT-25.8 ___
___ 09:17PM   ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service with ruptured membranes at 19wks. She underwent a 
dilation and evacuation the next day. Please see the operative 
report for full details.  

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with ibuprofen and tylenol. Her 
diet was advanced without difficulty. 
On the day of the surgery she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Ibuprofen 600 mg PO Q6H:PRN pain 
3. Lorazepam 0.5 mg PO Q4H:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
preterm premature rupture of membranes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the gynecology service on ___. You 
have recovered well after your procedure and the team feels that 
you are safe to be discharged home.

* You can take tylenol ___ every 6 hours as needed) and 
Motrin (600mg every 6 hours) as needed for pain. DO NOT take 
more than 4000mg tylenol in 24 hours
* Nothing in the vagina (no tampons, sex, douching) until your 
follow up appointment ___ weeks)
* No strenuous activity until your post-op appointment 
 
Followup Instructions:
___